US03940444
To a solution of 2 g. of 5,9,13-trimethyltetradeca-4,6,12-trien-3-one in 20 ml. of ethanol, cooled to 0° by an ice-bath, is added a suspension of 2.32 g. of mercuric acetate in 50 ml. of ethanol over 15 minutes. The reaction mixture is stirred for 2 hours and then with cooling, to -20°, 1.22 g. of potassium hydroxide in 20 ml. of ethanol is added. Then 0.139 g. of sodium borohydride is added in small portions and stirring continued for 30 minutes at -20°. The solution is decanted, then concentrated to half volume, diluted with 100 ml. of water and extracted with ether (3 × 50). The ethereal phase is washed with water, dried over magnesium sulfate and the crude product chromatographed on silica to yield 13-ethoxy-5,9,13-trimethyltetradeca-4,6-dien-3-one.

reactant | 5,9,13-trimethyltetradeca-4,6,12-trien-3-one | CC(=CC(CC)=O)C=CCC(CCC=C(C)C)C | C17H28O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 13-ethoxy-5,9,13-trimethyltetradeca-4,6-dien-3-one | C(C)OC(CCCC(CC=CC(=CC(CC)=O)C)C)(C)C | C19H34O2
